US08222417B2
Synthesis of tert-butyl 3,4-dihydroquinoxaline-1(2H)-carboxylate
To a solution of 1,2,3,4-tetrahydroquinoxaline obtained in Reference Example 26 (1.15 g) in tetrahydrofuran (80 ml), 1M sodium hydroxide (8 ml) was added and di-tert-butyl dicarbonate (1.87 g) was then added under ice cooling. The reaction mixture was stirred overnight at room temperature and filtered to remove insoluble materials, followed by distilling off the solvent under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluting solvent: n-hexane:ethyl acetate=9:1 to 5:1) to give the titled compound, i.e., tert-butyl 3,4-dihydroquinoxaline-1(2H)-carboxylate (2.69 g) as a yellow oil.

reactant | 1,2,3,4-tetrahydroquinoxaline | N1CCNC2=CC=CC=C12 | C8H10N2
reactant | di-tert-butyl dicarbonate | 1.87 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 1M, 8 ml | [OH-].[Na+]
product | tert-butyl 3,4-dihydroquinoxaline-1(2H)-carboxylate | 2.69 g | N1(CCNC2=CC=CC=C12)C(=O)OC(C)(C)C | C13H18N2O2
